US07566773B2
10 mmol of 3′-aminoacetophenone as a starting material was dissolved in a methanol solvent in a 100 mL round-bottomed flask and 1.2 equivalents (eq) of methyl trifluoroacetate was added dropwise thereto over 30 minutes at room temperature, and subsequently the reaction mixture was stirred for 2 hours. After the completion of the reaction was confirmed by TLC, a small amount of water was added to terminate the reaction. Then, the solvent was removed under reduced pressure. The residue was dissolved in 50 mL of ethyl acetate and washed twice with 30 mL of water, dried over anhydrous sodium sulfate, and distilled under reduced pressure to obtain the desired 3-acetyl-trifluoroacetylaminobenzene (85%) as a brown oil.

reactant | 3′-aminoacetophenone | 10 mmol | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | methyl trifluoroacetate | 1.2 equivalents | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-acetyl-trifluoroacetylaminobenzene | 85% | C(C)(=O)C=1C=C(C=CC1)NC(C(F)(F)F)=O | C10H8F3NO2
